US07767680B2
To a solution of 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide in Et2O (20 mL) was added IN HCl in Et2O (15 mL, 15 mmol). The resulting slurry was stirred vigorously for 1 hour. The solids were filtered off, washed with Et2O (2×20 mL), and dried in vacuo (0.01 mbar) overnight to yield 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide HCl salt (5.70 g, 12.10 mmol, 93%).

reactant | 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide | C(C1=CC=CC=C1)N(C(=O)C=1C(=NC(=NC1)N1CCOCC1)C1=C(C=CC=C1)F)C(C)C | C25H27FN4O2
reactant | HCl | Cl | ClH
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O | 15 mmol, 15 mL | CCOCC | C4H10O
product | 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide HCl salt | 12.10 mmol, 5.70 g, 93% | Cl.C(C1=CC=CC=C1)N(C(=O)C=1C(=NC(=NC1)N1CCOCC1)C1=C(C=CC=C1)F)C(C)C | InChI=1S/C25H27FN4O2.ClH/c1-18(2)30(17-19-8-4-3-5-9-19)24(31)21-16-27-25(29-12-14-32-15-13-29)28-23(21)20-10-6-7-11-22(20)26;/h3-11,16,18H,12-15,17H2,1-2H3;1H
